US07776897B2
2-piperazinone was suspended in a mixed solvent of dichloromethane and dioxane and then pyridine and benzenesulfonyl chloride were added thereto. After stirring at room temperature for 16 hours, the solvent was removed by evaporation and the resulting solid was suspended in 1N hydrochloric acid, filtered, and washed with diisopropyl ether to obtain 4-(phenylsulfonyl)-2-piperazinone.

reactant | 2-piperazinone | N1C(CNCC1)=O | C4H8N2O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(phenylsulfonyl)-2-piperazinone | C1(=CC=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C10H12N2O3S
